datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[O][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]C)[O]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21][H]>>CC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CCCCCC)CCCCCC.[O-:21]CCCCCC 10=20;20,21=21"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C)[NH]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([O]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]CC)[O]C 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)C1=CC=CC=C1)CCCCCC 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])CCCCCC.[O-:21]CCCCCC>>CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])CCCCCC 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]([NH:21]C)([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].[H][NH:10][H].C[NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[NH]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(C7=CC=CC=C7)C(CC)[NH]1 10=20;20,21=21"
"[O:10]([K])C(C)/C([H])=C([H])\C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C([H])=C([H])C(C)[O+:10]1([K]) 10=20;20,21=21"
"[H][O:10][C:20]([O-:21])(O[H])OC1=CC=CC=C1>>[O:21]=[C:20](O[H])OC1=CC=CC=C1.[O-:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1[H])C.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)C 21=20;20,10=10"
"CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CCCCCC.[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CCCCCC)CCCCCC 21=20;20,10=10"
"[O-:21][C:20]1(C)C(C)=C([H])C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])/C([H])=C(C)\[C:20](C)=[O:21] 21=20;20,10=10"
"[H][S:10]C(CC)C([H])[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C)[S][C:20]([O]C)=[O+:21]C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH]C7=CC=CC=C7 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OCCCCCC)C1=CC=CC=C1.[O-:21][H]>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21][H])C1=CC=CC=C1 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[S]C(C)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C(C)C([H])[O]1 10=20;20,21=21"
"[OH:21][C:20]1(OC)C(C)C(O)C(C)C(CC)[OH+:10]1>>[OH:10]C(CC)C(C)C(O)C(C)[C:20](OC)=[OH+:21] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S]C(CC)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CC)CC)CC)[O-:10])CCCCCC>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CC)CCCCCC 10=20;20,21=21"
"[O-:10]C(CCC)/C([H])=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C([H])C(CCC)[O:10]1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21][H]>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])CC)C 21=20;20,10=10"
"[K][O:21]C.[C:20](=[O:10])(OCC)OC1=CC=CC=C1>>[K][O+:21]([C:20]([O-:10])(OCC)OC1=CC=CC=C1)C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)CC)CCCCCC)CC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)CC)CCCCCC)[O-:10])CC 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)C)CC)CCCCCC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C)CC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
